US04539208
Z-2-(3-Cyclopentylpropionamido)-2-butenoic acid
A solution of 1.41 g (10 mmole) of 3-cyclopentylpropionamide and 1.53 g (15 mmole) of 2-ketobutyric acid was stirred and refluxed under a small Dean-Stark trap. After 8 hrs. the solution was cooled, resulting in heavy crystallization. The solid was collected on a filter and washed with toluene and CH2Cl2. Yield of white crystals=1.44 g, mp 180.5°-182° (prelim. softening). The material was recrystallized from methyl ethyl ketone. Yield of white needles=0.63 g (28%), mp 184°-185° (slight prelim. softening). Tlc (4:1 toluene-AcOH) now showed a single spot, and NMR indicated essentially pure Z-isomer.

reactant | 3-cyclopentylpropionamide | 10 mmole, 1.41 g | C1(CCCC1)CCC(=O)N | C8H15NO
reactant | 2-ketobutyric acid | 15 mmole, 1.53 g | O=C(C(=O)O)CC | C4H6O3
product | Z-2-(3-Cyclopentylpropionamido)-2-butenoic acid | C1(CCCC1)CCC(=O)N\C(\C(=O)O)=C/C | C12H19NO3
